US05149699
Ethyl(4-Chloro-2-methyl-6-trifluoromethylpyrimidin-5-yl)acetate
A solution of ethyl (2-methyl-6-trifluoromethyl-3H-pyrimidin-4-on-5-yl)acetate (2.50 g, 9.46 mmol), N,N-dimethylaniline (3 drops), and phosphorus oxychloride (35 mL) was heated under reflux for 4.5 h. The mixture was concentrated, cooled, and ice water was added. Solid KOH was added to neutralize the mixture and it was extracted with ether. The combined extracts were washed with brine, dried (MgSO4), and concentrated to give 2.61 g (98%) of product as a yellow oil.

reactant | ethyl (2-methyl-6-trifluoromethyl-3H-pyrimidin-4-on-5-yl)acetate | 9.46 mmol, 2.50 g | CC1=NC(=C(C(N1)=O)CC(=O)OCC)C(F)(F)F | C10H11F3N2O3
reactant | phosphorus oxychloride | 35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylaniline | 3 drops | CN(C1=CC=CC=C1)C | C8H11N
product | Ethyl(4-Chloro-2-methyl-6-trifluoromethylpyrimidin-5-yl)acetate | 2.61 g, 98% | C(C)OC(CC=1C(=NC(=NC1C(F)(F)F)C)Cl)=O | C10H10ClF3N2O2
